US04727082
3.1 g of dimethyl 4-[2-[(E)-4-chloro-2-butenyloxy]-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate and 5.8 g (S)-2-hydroxy-3-phenoxypropylamine were dissolved in 35 ml of acetonitrile, and the resultant solution was refluxed under heating for 2 hours. The reaction solution was concentrated under reduced pressure, and the residue was dissolved in 30 ml of chloroform. After washing the solution with water three times, the organic layer was concentrated under reduced pressure. The residue obtained was subjected to column chromatography on silica gel. The product was eluted with chloroform-methanol (95:5 V/V), was converted to HCl salt, and then was treated with ether-ethyl acetate to give 1.8 g of dimethyl 4-[2-[(E)-4-[[(S)-2-hydroxy-3-phenoxypropyl]amino]-2-butenyloxy]-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate HCl salt.

reactant | dimethyl 4-[2-[(E)-4-chloro-2-butenyloxy]-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 3.1 g | ClC/C=C/COC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C21H23ClN2O7
reactant | (S)-2-hydroxy-3-phenoxypropylamine | 5.8 g | O[C@@H](CN)COC1=CC=CC=C1 | C9H13NO2
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | dimethyl 4-[2-[(E)-4-[[(S)-2-hydroxy-3-phenoxypropyl]amino]-2-butenyloxy]-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate HCl salt | 1.8 g | Cl.O[C@@H](CNC/C=C/COC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC)COC1=CC=CC=C1 | InChI=1S/C30H35N3O9.ClH/c1-19-26(29(35)39-3)28(27(20(2)32-19)30(36)40-4)24-16-21(33(37)38)12-13-25(24)41-15-9-8-14-31-17-22(34)18-42-23-10-6-5-7-11-23;/h5-13,16,22,28,31-32,34H,14-15,17-18H2,1-4H3;1H/b9-8+;/t22-;/m0./s1
